US04626541
In the above formulations, a mixture of m-AMSA-L(+)-lactate and 1 mole equivalent of D,L-pyroglutamic acid will provide a 5 mg/ml m-AMSA solution which will not precipitate. The use of L-pyroglutamic acid in place of D,L-pyroglutamic acid will provide a 5 to 7.5 mg/ml solution which will not precipitate.

reactant | m-AMSA L(+)-lactate | COC=1C=C(C=CC1NC=2C=3C=CC=CC3N=C4C2C=CC=C4)NS(=O)(=O)C.C([C@@H](O)C)(=O)[O-]
reactant | D,L-pyroglutamic acid | N1C(CCC1=O)C(=O)O | C5H7NO3
product | m-AMSA | COC=1C=C(C=CC1NC=2C=3C=CC=CC3N=C4C2C=CC=C4)NS(=O)(=O)C | C21H19N3O3S
